US04382949
N-allyloxycarbonyl-D-cysteine allyl ester
A suspension of zinc dust (5.18 g) in a solution of bis(N-allyloxycarbonyl-D-cystine bis-allyl ester (5.18 g) in methanol (50 ml) at 0° C. is stirred vigorously while adding concentrated hydrochloric acid (3.5 ml) in one portion. After two minutes, the mixture is worked up as in the above Preparation B to afford the title product.

reactant | N-allyloxycarbonyl-D-cystine bis-allyl ester | 5.18 g | C(C=C)OC([C@@H](CSSC[C@H](C(=O)OCC=C)N)NC(=O)OCC=C)=O | C16H24N2O6S2
reactant | hydrochloric acid | 3.5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | zinc | 5.18 g | [Zn] | Zn
product | N-allyloxycarbonyl-D-cysteine allyl ester | C(C=C)OC([C@H](NC(=O)OCC=C)CS)=O | C10H15NO4S
